**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  SMT Ultraviolet Ceramic Waterclear 
* Matchcode:              WL-SUMW
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Ella      
* Date and Time:          2022-05-09
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 3535_15335337AA350  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=3.0680
+ RS=.41847
+ IKF=13.956
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ TT=5.0000E-9
.ends
******
.subckt 3535_15335338AA350  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.7355
+ RS=.37286
+ IKF=8.5192
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ TT=5.0000E-9
.ends
******
.subckt 3535_15335339AA350  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.7070
+ RS=.15573
+ IKF=20.612
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
.ends
******
.subckt 3535_15335340AA350  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.6849
+ RS=.13588
+ IKF=17.753
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
.ends
******
 .subckt 3535_15335327BA250  1  2
 D1 1 2 led
.MODEL led D
+ IS=1.1407E-18
+ N=4.9950
+ RS=18.229
+ IKF=2.8321E-6
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
.ends
******
 .subckt 3535_15335327BA252  1  2
 D1 1 2 led
 .MODEL led D
+ IS=10.010E-21
+ N=4.9950
+ RS=1.2404
+ IKF=14.319E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
.ends
******
.subckt 3535_15335327CA452  1  2
D1 1 2 led
.MODEL led D
+ IS=168.44E-21
+ N=4.9950
+ RS=2.4006
+ IKF=2.7111E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
.ends
******
.subckt 3535_15335327CA554  1  2
D1 1 2 led
.MODEL led D
+ IS=237.85E-21
+ N=4.9950
+ RS=.70496
+ IKF=24.121E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
.ends
******












